### PR TITLE
[Merged by Bors] - feat(FieldTheory/Normal): A quadratic extension is normal

### PR DESCRIPTION
**Pull request by xroblot**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 1]
```diff
@@ -427,6 +427,19 @@ theorem mem_lift_of_splits_of_roots_mem_range [Algebra R K] {f : K[X]}
   obtain ⟨b, hb, rfl⟩ := Multiset.mem_map.1 hP
   exact Subring.sub_mem _ (X_mem_lifts _) (C'_mem_lifts (hr _ hb))
 
+/--
+A polynomial of degree `2` with a root splits.
+-/
+theorem splits_of_degree_two {f : Polynomial K} {x : L} (h₁ : f.natDegree = 2)
```
Comment (erdOne) [inline Mathlib/Algebra/Polynomial/Splits.lean:433]:
```suggestion
theorem splits_of_natDegree_two {f : Polynomial K} {x : L} (h₁ : f.natDegree = 2)
```
(or `natDegree_eq_two`)
I wonder if a `f.natDegree <= 2` version would be easier to apply? Or is it false because of stupid reasons when ` = 0`?

File: Mathlib/FieldTheory/Normal/Basic.lean [hunk 2]
```diff
@@ -274,3 +274,19 @@ theorem exists_algEquiv_of_root' [Normal K L]{x y : L} (hy : IsAlgebraic K y)
...
+    Normal F K :=
+{ toIsAlgebraic := by
+    have : Module.Finite F K := Module.finite_of_finrank_eq_succ h
+    exact Algebra.IsAlgebraic.of_finite F K
+  splits' := by
+    have : FiniteDimensional F K := Module.finite_of_finrank_eq_succ h
+    intro x
+    obtain h | h := le_iff_lt_or_eq.mp (h ▸ minpoly.natDegree_le x)
+    · exact splits_of_natDegree_le_one _ (by rwa [Nat.le_iff_lt_add_one])
+    · exact splits_of_degree_two _ h (minpoly.aeval F x) }
```
Comment (erdOne) [inline Mathlib/FieldTheory/Normal/Basic.lean:292]:
```suggestion
    Normal F K where
  toIsAlgebraic := by
    have : Module.Finite F K := Module.finite_of_finrank_eq_succ h
    exact Algebra.IsAlgebraic.of_finite F K
  splits' := by
    have : FiniteDimensional F K := Module.finite_of_finrank_eq_succ h
    intro x
    obtain h | h := le_iff_lt_or_eq.mp (h ▸ minpoly.natDegree_le x)
    · exact splits_of_natDegree_le_one _ (by rwa [Nat.le_iff_lt_add_one])
    · exact splits_of_degree_two _ h (minpoly.aeval F x)
```

File: Mathlib/Algebra/Polynomial/Splits.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/Algebra/Polynomial/Splits.lean:433]: Constant polynomial are indeed splits, so I could indeed change to `f.natDegree <= 2`. Let me try that.

Comment (xroblot) [reply Mathlib/Algebra/Polynomial/Splits.lean:433]: After thinking about it, the assumption that the polynomial does have a root doesn't make sense for degree 0 and is not really relevant in degree 1, so I think it is better to keep it this way. I'll add a `degree` version of match what is done with [Polynomial.splits_of_natDegree_le_one](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Splits.html#Polynomial.splits_of_natDegree_le_one)

File: Mathlib/FieldTheory/Normal/Basic.lean [hunk 3]
```diff
@@ -274,3 +274,19 @@ theorem exists_algEquiv_of_root' [Normal K L]{x y : L} (hy : IsAlgebraic K y)
   rw [← hσ, symm_apply_apply]
 
 end minpoly
+
+/--
+A Quadratic extension is normal.
+-/
+theorem normal_of_rank_eq_two (F K : Type*) [Field F] [Field K] [Algebra F K]
```
Comment (erdOne) [inline Mathlib/FieldTheory/Normal/Basic.lean:281]:
```suggestion
theorem normal_of_finrank_eq_two (F K : Type*) [Field F] [Field K] [Algebra F K]
```

File: Mathlib/FieldTheory/Normal/Basic.lean [hunk 4]
```diff
@@ -274,3 +274,19 @@ theorem exists_algEquiv_of_root' [Normal K L]{x y : L} (hy : IsAlgebraic K y)
   rw [← hσ, symm_apply_apply]
 
 end minpoly
+
+/--
+A Quadratic extension is normal.
```
Comment (erdOne) [inline Mathlib/FieldTheory/Normal/Basic.lean:279]:
```suggestion
A quadratic extension is normal.
```

**Review by erdOne — APPROVED** [review]
Thanks!
maintainer delegate

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 5]
```diff
@@ -427,6 +427,23 @@ theorem mem_lift_of_splits_of_roots_mem_range [Algebra R K] {f : K[X]}
   obtain ⟨b, hb, rfl⟩ := Multiset.mem_map.1 hP
   exact Subring.sub_mem _ (X_mem_lifts _) (C'_mem_lifts (hr _ hb))
 
+/--
+A polynomial of degree `2` with a root splits.
+-/
+theorem splits_of_natDegree_eq_two {f : Polynomial K} {x : L} (h₁ : f.natDegree = 2)
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Polynomial/Splits.lean:433]: Is it a lot work to generalize this to degree `n` polynomials with `n-1` roots?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Algebra/Polynomial/Splits.lean (hunk 5 above)
Comment (xroblot) [reply Mathlib/Algebra/Polynomial/Splits.lean:433]: It should not be that harder. I'll try in another PR.
